US04238487
N,N-dimethyl-2-(4-aminobutyl)benzofuran-6-carboxamide (13.0 g., 0.05 mole) in tetrahydrofuran (60 ml.) is added dropwise with stirring to lithium aluminum hydride (3.0 g., 0.08 mole) in tetrahydrofuran (60 ml.) at 25°-30° C. The mixture is stirred for 2 hours at 25°-30° C. and then is treated successively with 3 g. of water, 3 g. of 15% sodium hydroxide solution and 9 g. of water. The solid precipitate is removed by filtration. The tetrahydrofuran solution is evaporated at reduced pressure to provide 2-(4-aminobutyl)-6-dimethylaminomethyl)benzofuran.

reactant | N,N-dimethyl-2-(4-aminobutyl)benzofuran-6-carboxamide | 0.05 mole, 13.0 g | CN(C(=O)C1=CC2=C(C=C(O2)CCCCN)C=C1)C | C15H20N2O2
reactant | lithium aluminum hydride | 0.08 mole, 3.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | benzofuran | O1C=CC2=C1C=CC=C2 | C8H6O
